US07176194B2
c) {1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}-benzonitrile (33)
2 g of 4-[5-(4-Fluorophenyl)-1-(4-fluorophenylamino)-5-hydroxy-2-(2-oxo-4-phenyl-oxazolidine-3-carbonyl)-pentyl]-benzonitrile were dissolved in 20 ml of methyl-tert-butyl ether and, together with 100 mg of tetrabutylammonium fluoride trihydrate and 1.3 ml of bistrimethylsilyl acetamide, heated at 40° C. for about 1 h. The reaction was monitored by thin-layer chromatography. After the reaction ended, 0.2 ml of glacial acetic acid were initially added and the mixture was stirred for 30 min and then concentrated. 20 ml of a mixture of isopropanol/2N sulfuric acid=10:1 were added to the residue, and the mixture was stirred for 1 hour. Following addition of a spatula tip of solid sodium bicarbonate, the mixture was again concentrated under reduced pressure. The residue was taken up in ethyl acetate and the organic phase was washed with water and dried. The residue was, after removal of the solvent, purified by column chromatography (SiO2, CH2Cl2/methanol=100:1). This gave the product of molecular weight 418.45 (C25H20F2N2O2); MS (DCI+): 419 (M+H+).

reactant | 4-[5-(4-Fluorophenyl)-1-(4-fluorophenylamino)-5-hydroxy-2-(2-oxo-4-phenyl-oxazolidine-3-carbonyl)-pentyl]-benzonitrile | 2 g | FC1=CC=C(C=C1)C(CCC(C(NC1=CC=C(C=C1)F)C1=CC=C(C#N)C=C1)C(=O)N1C(OCC1C1=CC=CC=C1)=O)O | C34H29F2N3O4
reactant | tetrabutylammonium fluoride trihydrate | 100 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | bistrimethylsilyl acetamide | 1.3 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
solvent | methyl-tert-butyl ether | 20 ml | COC(C)(C)C | C5H12O
product | {1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}-benzonitrile | FC1=CC=C(C=C1)N1C(C(C1=O)CCC(O)C1=CC=C(C=C1)F)C1=C(C#N)C=CC=C1 | C25H20F2N2O2
